US09233981B1
Step 1. Synthesis of [(4aR,8aS)-2-(benzoylamino)-8a-(2,4-difluorophenyl)-4a,5,8,8a-tetrahydropyrano[3,4-d][1,3]thiazin-6(4H)-ylidene]methyl acetate (C11)
Acetic anhydride (1.5 mL, 16 mmol) was added to a slurry of N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-formyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (P3) (661 mg, 1.59 mmol) and potassium carbonate (1.34 g, 9.70 mmol) in acetonitrile (16 mL). After the flask had been flushed with nitrogen, the reaction mixture was heated at reflux for 2.5 hours, then allowed to cool to room temperature and stir for 18 hours. The slurry was diluted with ethyl acetate and filtered; the solids were washed with ethyl acetate, and the combined filtrates were concentrated in vacuo. Purification using silica gel chromatography (Gradient: 0% to 100% ethyl acetate in heptane) afforded the product as a white solid, which was assigned as a roughly 4:1 mixture of geometric isomers from the 1H NMR. Yield: 437 mg, 0.953 mmol, 60%. LCMS m/z 459.1 [M+H+]. 1H NMR (400 MHz, CDCl3), major isomer only: δ 8.09-8.32 (br s, 2H), 7.50-7.56 (m, 1H), 7.39-7.45 (m, 3H), 6.85-6.99 (m, 2H), 6.75 (d, J=1.9 Hz, 1H), 4.31 (dd, J=11.7, 1.2 Hz, 1H), 4.02 (d, J=11.8 Hz, 1H), 3.13-3.26 (m, 1H), 2.97-3.07 (m, 1H), 2.70-2.87 (m, 2H), 2.19 (s, 3H), 2.17-2.25 (m, 1H).

reactant | Acetic anhydride | 16 mmol, 1.5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-formyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | 1.59 mmol, 661 mg | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)C=O)NC(C2=CC=CC=C2)=O | C21H18F2N2O3S
reactant | potassium carbonate | 9.70 mmol, 1.34 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
product | [(4aR,8aS)-2-(benzoylamino)-8a-(2,4-difluorophenyl)-4a,5,8,8a-tetrahydropyrano[3,4-d][1,3]thiazin-6(4H)-ylidene]methyl acetate | C(C)(=O)OC=C1C[C@@H]2[C@@](N=C(SC2)NC(C2=CC=CC=C2)=O)(CO1)C1=C(C=C(C=C1)F)F | C23H20F2N2O4S
